US04897391
Reflux a solution of 2-acetyl-1-[3,5-bis(methoxy)benzoyl]piperidine (4.62 g), trifluoroacetic acid (3 ml), and carbon tetrachloride (97 ml) for 20 hours under nitrogen. Cool the solution to 25° C., and sequentially wash it with water, 1M sodium bicarbonate solution, and with water. Concentrate the dried, filtered organic solution, and cool it to induce crystallization. Recrystallize the resulting solid to obtain 8,10-bis(methoxy)-1,2,3,4-tetrahydro-11-methyl-6H-benzo[b]quinolizin-6-one, m.p. 165°-168° C. (from EtOAc).

reactant | 2-acetyl-1-[3,5-bis(methoxy)benzoyl]piperidine | 4.62 g | C(C)(=O)C1N(CCCC1)C(C1=CC(=CC(=C1)OC)OC)=O | C16H21NO4
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | carbon tetrachloride | 97 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8,10-bis(methoxy)-1,2,3,4-tetrahydro-11-methyl-6H-benzo[b]quinolizin-6-one | COC1=CC2=C(C(=C3CCCCN3C2=O)C)C(=C1)OC | C16H19NO3
